US04797409
A mixture of 12.6 g of monothioresorcinol, 31.3 g of 1-(4-chlorophenylthio)-3-iodopropane (prepared from 4-chlorothiophenol and 1-bromo-3-chloropropane followed by replacement of chlorine by iodine with sodium iodide in acetone), 16.6 g of potassium carbonate and 60 ml of acetone was stirred at room temperature for 24 hours, then the solvent was removed by distillation under reduced pressure, methylene chloride was added, the solution was washed several times with water and dried, and then 14.5 g of 3-(4-chlorophenylthiopropylthio)phenol were isolated by chromatography on silica gel using methylene chloride as mobile phase. This product was stirred together with 9.5 g of 6-chloromethyl-4-methyl-2-pyrone, 10.4 g of potassium carbonate and 60 ml of acetone at 50° C. for 31 hours, then the solvent was removed by distillation under reduced pressure, the residue was taken up in methylene chloride, and the solution was washed several times with water, dried and chromatographed on silica gel. 11.2 g of the main fraction were heated with 50 g of 2-aminopyridine at 75° C. for 65 hours, and a total of 12 g of hydroxylamine hydrochloride was added in several portions. The residue was then taken up in methylene chloride, and the organic phase was extracted by shaking with dilute hydrochloric acid and several times with water and was dried, and the solvent was removed by distillation. The residue amounted to 9.9 g. Treatment with methanol resulted in 2.7 g of pure hydroxypyridone of melting point 102° C.

reactant | 1-(4-chlorophenylthio)-3-iodopropane | 31.3 g | ClC1=CC=C(C=C1)SCCCI | C9H10ClIS
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 3-(4-chlorophenylthiopropylthio)phenol | 14.5 g | ClC1=CC=C(C=C1)SCCCSC=1C=C(C=CC1)O | C15H15ClOS2
